US05789409
4-[[4-(2-Carboxyphenyl)-1-piperazinyl]methyl]phenylacetic acid
Using 2.4 g of methyl 4-bromomethylphenylacetate, 2.9 g of ethyl 2-piperazinylbenzoate acetate, 3 ml of triethylamine, and 80 ml of dioxane, the reaction procedure of Example 2 was otherwise repeated and the reaction product was recrystallized from ethanol-water to provide 2.0 g of the title compound melting at 179° C.-181° C.

reactant | methyl 4-bromomethylphenylacetate | 2.4 g | BrCC1=CC=C(C=C1)CC(=O)OC | C10H11BrO2
reactant | ethyl 2-piperazinylbenzoate acetate | 2.9 g | C(C)(=O)O.N1(CCNCC1)C1=C(C(=O)OCC)C=CC=C1
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | 4-[[4-(2-Carboxyphenyl)-1-piperazinyl]methyl]phenylacetic acid | 2.0 g | C(=O)(O)C1=C(C=CC=C1)N1CCN(CC1)CC1=CC=C(C=C1)CC(=O)O | C20H22N2O4
